* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.013122e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.521169e-01)*u*u + (2.299531e+00)*u + (1.151837e+01)),1.827013e+01),8.570383e+01)}
.param L_a = {min(max(exp((1.350275e-01)*u*u + (1.980679e+00)*u + (-4.876339e+00)),6.019781e-06),2.768817e-05)}
.param R_pl = {min(max(exp((-5.229284e-01)*u*u + (-9.977544e+00)*u + (-3.921437e+01)),1.839935e+03),3.798080e+03)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((2.064671e-04)*u*u + (4.842603e-03)*u + (2.871240e-02),4.757971e-04),2.762057e-03)}
.param G1 = {min(max((3.454830e-05)*u*u + (6.567825e-05)*u + (-3.788356e-03),-1.963983e-03),-4.469827e-04)}
.param w1 = {min(max(exp((1.418439e-02)*u*u + (2.757792e-01)*u + (1.633193e+01)),3.247733e+06),3.352959e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-3.511150e-02)*u*u + (-6.250851e-01)*u + (-1.018305e+01)),5.339672e-04),6.134082e-04)}
.param gn1 = {min(max(exp((-1.555296e-01)*u*u + (-2.368940e+00)*u + (-8.571480e+00)),3.158308e-01),1.465989e+00)}
.param gn2 = {min(max(exp((-1.561262e-01)*u*u + (-2.379151e+00)*u + (-1.001625e+01)),7.756299e-02),3.611080e-01)}
.param gn3 = {min(max(exp((-1.534994e-01)*u*u + (-2.334202e+00)*u + (-1.111363e+01)),2.164716e-02),9.945244e-02)}
.param gn4 = {min(max(exp((-1.613562e-01)*u*u + (-2.476590e+00)*u + (-1.238781e+01)),1.126299e-02),5.277257e-02)}
.param gn5 = {min(max(exp((2.617152e+00)*u*u + (5.370308e+01)*u + (2.601441e+02)),4.882383e-07),5.355480e-03)}
.param gn6 = {min(max(exp((1.176001e-01)*u*u + (2.490576e+00)*u + (-2.434503e+00)),1.645911e-07),3.069404e-07)}
.param vreg = {min(max((1.371333e-04)*u*u + (1.244391e-03)*u + (9.013797e-01),9.004749e-01),9.039870e-01)}
.param COUT=5.548206e-09 ESR=5.059191e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-5.190125e-03,1.000000e-06,-1.654858e-03,1.300000e-05,-5.660293e-04,2.500000e-05,1.475177e-04,3.700000e-05,6.972287e-04,4.900000e-05,1.154778e-03,6.100000e-05,1.553309e-03,7.300000e-05,1.910948e-03,8.500000e-05,2.238729e-03,9.700000e-05,2.543896e-03,1.090000e-04,2.831478e-03,1.210000e-04,3.105119e-03,1.330000e-04,3.367549e-03,1.450000e-04,3.620869e-03,1.570000e-04,3.866734e-03,1.690000e-04,4.106469e-03,1.810000e-04,4.341153e-03,1.930000e-04,4.571671e-03,2.050000e-04,4.798763e-03,2.170000e-04,5.023045e-03,2.290000e-04,5.245043e-03,2.410000e-04,5.465202e-03,2.530000e-04,5.683902e-03,2.650000e-04,5.901474e-03,2.770000e-04,6.118203e-03,2.890000e-04,6.334335e-03,3.010000e-04,6.550090e-03,3.130000e-04,6.765656e-03,3.250000e-04,6.981204e-03,3.370000e-04,7.196883e-03,3.490000e-04,7.412827e-03,3.610000e-04,7.629157e-03,3.730000e-04,7.845982e-03,3.850000e-04,8.063402e-03,3.970000e-04,8.281506e-03,4.090000e-04,8.500381e-03,4.210000e-04,8.720105e-03,4.330000e-04,8.940752e-03,4.450000e-04,9.162394e-03,4.570000e-04,9.385099e-03,4.690000e-04,9.608935e-03,4.810000e-04,9.833968e-03,4.930000e-04,9.982990e-03,5.010000e-04,1.036222e-02,5.210000e-04,1.074540e-02,5.410000e-04,1.113286e-02,5.610000e-04,1.152497e-02,5.810000e-04,1.192214e-02,6.010000e-04,1.232485e-02,6.210000e-04,1.273365e-02,6.410000e-04,1.314920e-02,6.610000e-04,1.357227e-02,6.810000e-04,1.400385e-02,7.010000e-04,1.444510e-02,7.210000e-04,1.489753e-02,7.410000e-04,1.536305e-02,7.610000e-04,1.584410e-02,7.810000e-04,1.634392e-02,8.010000e-04,1.686680e-02,8.210000e-04,1.741855e-02,8.410000e-04,1.800707e-02,8.610000e-04,1.864320e-02,8.810000e-04,1.934172e-02,9.010000e-04,2.012246e-02,9.210000e-04,2.101084e-02,9.410000e-04,2.203696e-02,9.610000e-04,2.323175e-02,9.810000e-04,2.462001e-02,1.001000e-03,2.621310e-02,1.021000e-03,2.800619e-02,1.041000e-03,2.998198e-02,1.061000e-03,3.211723e-02,1.081000e-03,3.438828e-02,1.101000e-03,3.677378e-02,1.121000e-03,3.925567e-02,1.141000e-03,4.181912e-02,1.161000e-03,4.445212e-02,1.181000e-03,4.714496e-02,1.201000e-03,4.988979e-02,1.221000e-03,5.268021e-02,1.241000e-03,5.551100e-02,1.261000e-03,5.837786e-02,1.281000e-03,6.127721e-02,1.301000e-03,6.420606e-02,1.321000e-03,6.716188e-02,1.341000e-03,7.014255e-02,1.361000e-03,7.314623e-02,1.381000e-03,7.617137e-02,1.401000e-03,7.921660e-02,1.421000e-03,8.228074e-02,1.441000e-03,8.536278e-02,1.461000e-03,8.846181e-02,1.481000e-03,9.157703e-02,1.501000e-03,9.470774e-02,1.521000e-03,9.785332e-02,1.541000e-03,1.010132e-01,1.561000e-03,1.041869e-01,1.581000e-03,1.073740e-01,1.601000e-03,1.105741e-01,1.621000e-03,1.137867e-01,1.641000e-03,1.170117e-01,1.661000e-03,1.202486e-01,1.681000e-03,1.234973e-01,1.701000e-03,1.267574e-01,1.721000e-03,1.300289e-01,1.741000e-03,1.333114e-01,1.761000e-03,1.366048e-01,1.781000e-03,1.399089e-01,1.801000e-03,1.432236e-01,1.821000e-03,1.465488e-01,1.841000e-03,1.498844e-01,1.861000e-03,1.532301e-01,1.881000e-03,1.565860e-01,1.901000e-03,1.599520e-01,1.921000e-03,1.633280e-01,1.941000e-03,1.667139e-01,1.961000e-03,1.701096e-01,1.981000e-03,1.735152e-01,2.001000e-03,1.769306e-01,2.021000e-03,1.803558e-01,2.041000e-03,1.837908e-01,2.061000e-03,1.872355e-01,2.081000e-03,1.906899e-01,2.101000e-03,1.941542e-01,2.121000e-03,1.976282e-01,2.141000e-03,2.011121e-01,2.161000e-03,2.046058e-01,2.181000e-03,2.081094e-01,2.201000e-03,2.116231e-01,2.221000e-03,2.151467e-01,2.241000e-03,2.186806e-01,2.261000e-03,2.222246e-01,2.281000e-03,2.257791e-01,2.301000e-03,2.293440e-01,2.321000e-03,2.329196e-01,2.341000e-03,2.365060e-01,2.361000e-03,2.401034e-01,2.381000e-03,2.437119e-01,2.401000e-03,2.473320e-01,2.421000e-03,2.509637e-01,2.441000e-03,2.546075e-01,2.461000e-03,2.582635e-01,2.481000e-03,2.619323e-01,2.501000e-03,2.656141e-01,2.521000e-03,2.693094e-01,2.541000e-03,2.730187e-01,2.561000e-03,2.767425e-01,2.581000e-03,2.804815e-01,2.601000e-03,2.842362e-01,2.621000e-03,2.880073e-01,2.641000e-03,2.917957e-01,2.661000e-03,2.956022e-01,2.681000e-03,2.994276e-01,2.701000e-03,3.032731e-01,2.721000e-03,3.071396e-01,2.741000e-03,3.110283e-01,2.761000e-03,3.149406e-01,2.781000e-03,3.188776e-01,2.801000e-03,3.228410e-01,2.821000e-03,3.268323e-01,2.841000e-03,3.308530e-01,2.861000e-03,3.349050e-01,2.881000e-03,3.389902e-01,2.901000e-03,3.431105e-01,2.921000e-03,3.472680e-01,2.941000e-03,3.514650e-01,2.961000e-03,3.557038e-01,2.981000e-03,3.599870e-01,3.001000e-03,3.643172e-01,3.021000e-03,3.686973e-01,3.041000e-03,3.731302e-01,3.061000e-03,3.776193e-01,3.081000e-03,3.821678e-01,3.101000e-03,3.867797e-01,3.121000e-03,3.914587e-01,3.141000e-03,3.962093e-01,3.161000e-03,4.010362e-01,3.181000e-03,4.059443e-01,3.201000e-03,4.109393e-01,3.221000e-03,4.160272e-01,3.241000e-03,4.212146e-01,3.261000e-03,4.265089e-01,3.281000e-03,4.319182e-01,3.301000e-03,4.374513e-01,3.321000e-03,4.431182e-01,3.341000e-03,4.489300e-01,3.361000e-03,4.548989e-01,3.381000e-03,4.610386e-01,3.401000e-03,4.674645e-01,3.421000e-03,4.740032e-01,3.441000e-03,4.807657e-01,3.461000e-03,4.877735e-01,3.481000e-03,4.950509e-01,3.501000e-03,5.026249e-01,3.521000e-03,5.105254e-01,3.541000e-03,5.187857e-01,3.561000e-03,5.274419e-01,3.581000e-03,5.365334e-01,3.601000e-03,5.461019e-01,3.621000e-03,5.561910e-01,3.641000e-03,5.668448e-01,3.661000e-03,5.781062e-01,3.681000e-03,5.900149e-01,3.701000e-03,6.026046e-01,3.721000e-03,6.159007e-01,3.741000e-03,6.299186e-01,3.761000e-03,6.446619e-01,3.781000e-03,6.601230e-01,3.801000e-03,6.762839e-01,3.821000e-03,6.931188e-01,3.841000e-03,7.105969e-01,3.861000e-03,7.286849e-01,3.881000e-03,7.473494e-01,3.901000e-03,7.665586e-01,3.921000e-03,7.862834e-01,3.941000e-03,8.064973e-01,3.961000e-03,8.271765e-01,3.981000e-03,8.482999e-01,4.001000e-03,8.698482e-01,4.021000e-03,8.918037e-01,4.041000e-03,9.141496e-01,4.061000e-03,9.368700e-01,4.081000e-03,9.599498e-01,4.101000e-03,9.833745e-01,4.121000e-03,1.007130e+00,4.141000e-03,1.031202e+00,4.161000e-03,1.055428e+00,4.181000e-03,1.080099e+00,4.201000e-03,1.105048e+00,4.221000e-03,1.130261e+00,4.241000e-03,1.155725e+00,4.261000e-03,1.181428e+00,4.281000e-03,1.207359e+00,4.301000e-03,1.233504e+00,4.321000e-03,1.259854e+00,4.341000e-03,1.286398e+00,4.361000e-03,1.313124e+00,4.381000e-03,1.340022e+00,4.401000e-03,1.367084e+00,4.421000e-03,1.394298e+00,4.441000e-03,1.421658e+00,4.461000e-03,1.449153e+00,4.481000e-03,1.476775e+00,4.501000e-03,1.504517e+00,4.521000e-03,1.532371e+00,4.541000e-03,1.560329e+00,4.561000e-03,1.588386e+00,4.581000e-03,1.616534e+00,4.601000e-03,1.644766e+00,4.621000e-03,1.673078e+00,4.641000e-03,1.701463e+00,4.661000e-03,1.729915e+00,4.681000e-03,1.758431e+00,4.701000e-03,1.787004e+00,4.721000e-03,1.815630e+00,4.741000e-03,1.844305e+00,4.761000e-03,1.873024e+00,4.781000e-03,1.901784e+00,4.801000e-03,1.930580e+00,4.821000e-03,1.959409e+00,4.841000e-03,1.988268e+00,4.861000e-03,2.017153e+00,4.881000e-03,2.046062e+00,4.901000e-03,2.074990e+00,4.921000e-03,2.103936e+00,4.941000e-03,2.132897e+00,4.961000e-03,2.161870e+00,4.981000e-03,2.190853e+00,5.001000e-03,2.219843e+00,5.021000e-03,2.248839e+00,5.041000e-03,2.277838e+00,5.061000e-03,2.306838e+00,5.081000e-03,2.335838e+00,5.101000e-03,2.364836e+00,5.121000e-03,2.393830e+00,5.141000e-03,2.422818e+00,5.161000e-03,2.451799e+00,5.181000e-03,2.480772e+00,5.201000e-03,2.509735e+00,5.221000e-03,2.538687e+00,5.241000e-03,2.567626e+00,5.261000e-03,2.596552e+00,5.281000e-03,2.625464e+00,5.301000e-03,2.654359e+00,5.321000e-03,2.683238e+00,5.341000e-03,2.712100e+00,5.361000e-03,2.740943e+00,5.381000e-03,2.769766e+00,5.401000e-03,2.798569e+00,5.421000e-03,2.827351e+00,5.441000e-03,2.856112e+00,5.461000e-03,2.884850e+00,5.481000e-03,2.913565e+00,5.501000e-03,2.942256e+00,5.521000e-03,2.970923e+00,5.541000e-03,2.999565e+00,5.561000e-03,3.028182e+00,5.581000e-03,3.056773e+00,5.601000e-03,3.085337e+00,5.621000e-03,3.113875e+00,5.641000e-03,3.142385e+00,5.661000e-03,3.170868e+00,5.681000e-03,3.199322e+00,5.701000e-03,3.227749e+00,5.721000e-03,3.256146e+00,5.741000e-03,3.284514e+00,5.761000e-03,3.312853e+00,5.781000e-03,3.341162e+00,5.801000e-03,3.369441e+00,5.821000e-03,3.397690e+00,5.841000e-03,3.425909e+00,5.861000e-03,3.454096e+00,5.881000e-03,3.482253e+00,5.901000e-03,3.510379e+00,5.921000e-03,3.538473e+00,5.941000e-03,3.566536e+00,5.961000e-03,3.594568e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.559708e-09        $ corner 18.59 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 6.022380e-10        $ corner 264.3 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 4.123569e-11        $ corner 3860 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 3.909578e-13        $ corner 4.071e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.954829e-13        $ corner 8.142e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 4.154791e-16        $ corner 3.831e+08 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

